US07084123B2
To a solution of 3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-1-isopropyl-5-methylpyrazole (0.10 g) in 2,4,6-trimethylpyridine (1 mL) was added propionyl chloride (0.072 g) at 0° C., and the mixture was stirred for 5 hours. To the reaction mixture were added citric acid monohydrate (3.3 g) and water, and the resulting mixture was purified by ODS solid phase extraction (washing solvent: distilled water, eluent: methanol). Further purification by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) afforded 4-[(4-isopropoxyphenyl)methyl]-1-isopropyl-5-methyl-3-(6-O-propionyl-β-D-glucopyranosyloxy)pyrazole (0.074 g)

reactant | 3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-1-isopropyl-5-methylpyrazole | 0.10 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NN(C(=C1CC1=CC=C(C=C1)OC(C)C)C)C(C)C | C23H34N2O7
reactant | propionyl chloride | 0.072 g | C(CC)(=O)Cl | C3H5ClO
reactant | citric acid monohydrate | 3.3 g | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
reactant | water | O | H2O
solvent | 2,4,6-trimethylpyridine | 1 mL | CC1=NC(=CC(=C1)C)C | C8H11N
product | 4-[(4-isopropoxyphenyl)methyl]-1-isopropyl-5-methyl-3-(6-O-propionyl-β-D-glucopyranosyloxy)pyrazole | 0.074 g | C(C)(C)OC1=CC=C(C=C1)CC=1C(=NN(C1C)C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)COC(CC)=O | C26H38N2O8
